US04536509
1,1-Diphenyl-2-(1,2,4-triazol-1-yl)-ethane
26.7 g (0.2 mole) of AlCl3 were added in portions to a solution of 18.9 g (0.1 mole) of 1-phenyl-2-(1,2,4-triazol-1-yl)-ethanol in 50 ml of benzene and 50 ml of 1,2-dichloroethane at -10° C. Thereafter, the mixture was warmed to room temperature in the course of 30 minutes, and was then heated to 80° C., until the evolution of gas was no longer observed. The mixture was poured onto 200 ml of ice-water, the organic phase was separated off and concentrated, and the residue was triturated with diisopropyl ether. Yield 21.4 g (86% ), m.p. 107°-108° C.

reactant | AlCl3 | 0.2 mole, 26.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1-phenyl-2-(1,2,4-triazol-1-yl)-ethanol | 0.1 mole, 18.9 g | C1(=CC=CC=C1)C(CN1N=CN=C1)O | C10H11N3O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1,1-Diphenyl-2-(1,2,4-triazol-1-yl)-ethane | C1(=CC=CC=C1)C(CN1N=CN=C1)C1=CC=CC=C1 | C16H15N3
